US07361763B2
30 mg of sodium-tert-butoxide and 12 mg of bis(tert-butylphosphino)palladium(0) were placed in a Smith® vial and the vial flushed with nitrogen. 100 mg (0.22 mmol) of 5-bromo-3-(2-methoxy-phenyl)-1-triisopropylsilanyl-1H-pyrrolo[2,3-b]pyridine in 1 ml of anhydrous 1,4-dioxane and 35 μl of N-methylaniline were added and the resulting mixture heated to 130° C. for 15 h. The reaction mixture was then cooled to ambient temperature and 0.4 ml of a 1 M solution of tetra-n-butylammonium fluoride in THF added. The mixture was stirred at room temperature for 2 h. 2 ml of methanol and amberlyst strongly acidic ion exchange resin loaded with sodium was added. After shaking at room temperature for 2 h the crude material is directly adsorbed onto silica gel and purified by flash chromatorgraphy on silica gel using a gradient of ethyl acetate in hexanes to afford 42 mg (0.14 mmol; 64% yield) of [3-(2-methoxy-phenyl)-1H-pyrrolo[2,3-b]pyridine-5-yl]-methyl-phenyl-amine as a brown residue. 1H-NMR (d6-DMSO): δ11.88 (s, 1H), 8.11 (d, J=2.5 Hz, 1H), 7.75 (d, J=2.4 Hz, 1H), 7.70 (d, J=2.5 Hz, 1H), 7.48 (dd, J=1.5 Hz, 7.3 Hz, 1H), 7.26 (ddd, J=1.5 Hz, 8.3 Hz, 1H), 7.16 (t, J=7.9 Hz, 2H), 7.08 (d, J=8.3 Hz, 1H), 7.00 (t(d), J=0.9 Hz, 8.3 Hz, 1H), 6.72-6.68 (m, 3H), 3.76 (s, 3H), 3.29 (s, 3H); MS: m/z 330 [MH+].

reactant | sodium-tert-butoxide | 30 mg | CC(C)([O-])C.[Na+]
reactant | 5-bromo-3-(2-methoxy-phenyl)-1-triisopropylsilanyl-1H-pyrrolo[2,3-b]pyridine | 0.22 mmol, 100 mg | BrC=1C=C2C(=NC1)N(C=C2C2=C(C=CC=C2)OC)[Si](C(C)C)(C(C)C)C(C)C | C23H31BrN2OSi
reactant | tetra-n-butylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | sodium | [Na] | Na
solvent | 1,4-dioxane | 1 ml | O1CCOCC1 | C4H8O2
solvent | N-methylaniline | 35 μl | CNC1=CC=CC=C1 | C7H9N
solvent | THF | C1CCOC1 | C4H8O
catalyst | bis(tert-butylphosphino)palladium(0) | 12 mg | C(C)(C)(C)P[Pd-2]PC(C)(C)C
solvent | methanol | 2 ml | CO | CH4O
product | [3-(2-methoxy-phenyl)-1H-pyrrolo[2,3-b]pyridine-5-yl]-methyl-phenyl-amine | 0.14 mmol, 42 mg, 64% yield | COC1=C(C=CC=C1)C1=CNC2=NC=C(C=C21)N(C2=CC=CC=C2)C | C21H19N3O
